US04906628
5-[4-(4-Oxo-1,4-dihydropyridin-1-yl)phenyl]-1,3,4-oxadiazol-2(3H)-one
A mixture of 5-(4-aminophenyl)-1,3,4-oxadiazol-2(3H)-one (0.41 g), 4H-pyran-4-one (0.24 g), and hydrochloric acid (2N, 1.15 ml) in water (25 ml) was stirred under reflux for 3 hours to afford a yellow solid. This solid was added to hot water with stirring and the resulting suspension was made alkaline (pH 8) with aqueous ammonia and was then filtered. The collected solid was dissolved in aqueous potassium carbonate and the resulting solution was neutralised with dilute acetic acid to afford an emulsion from which after centrifugation was obtained the title compound, 0.47 g, m.p. 220° C. (decomp), contaminated with potassium acetate.

reactant | 5-(4-aminophenyl)-1,3,4-oxadiazol-2(3H)-one | 0.41 g | NC1=CC=C(C=C1)C1=NNC(O1)=O | C8H7N3O2
reactant | 4H-pyran-4-one | 0.24 g | O1C=CC(C=C1)=O | C5H4O2
reactant | hydrochloric acid | 2N, 1.15 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | water | 25 ml | O | H2O
product | 5-[4-(4-Oxo-1,4-dihydropyridin-1-yl)phenyl]-1,3,4-oxadiazol-2(3H)-one | O=C1C=CN(C=C1)C1=CC=C(C=C1)C1=NNC(O1)=O | C13H9N3O3
